US05262412
Step E: 4-(4-Bromo-2-fluorobenzyl)-3-n-butyl-1-(2-chloro-5-nitrophenyl)-1H-pyrazole-5-carboxamide
A solution of 4-(4-bromo-2-fluorobenzyl)-3-n-butyl-1-(2-chloro-5-nitrophenyl)-1H-pyrazole-5-carbonyl chloride (from Step D, theoretically 1.32 mmol) in 10 mL of dry THF was cooled to -50° C. and maintained at that temperature under protection from moisture as ammonia gas was gently bubbled in until saturated. The mixture was allowed to warm slowly to room temperature and stirred overnight. Concentration of the reaction mixture yielded a thick yellow oil, which was purified by flash chromatography on silica gel (elution with 1% and then 3% MeOH in CH2Cl2). Evaporation of the pooled product fractions yielded 625 mg (93%) of the title compound as a slightly yellow solid, mp 145°-147° C.; nearly homogeneous by TLC in 95:5 CH2Cl2 ; mass spectrum (FAB) m/e 509, 511 (M+1)+. 200 MHz 1H NMR (CDCl3) δ0.89 (t, J=7.1 Hz, 3H), 1.35 (m, 2H), 1.59 (m, 2H, partially obscured by H2O peak), 2.58 (t, J=7.7 Hz, 2H), 4.04 (s, 2H), 5.51 (br s, 2H), 6.91 (dd, J≈8, 8 Hz, 1H), 7.25-7.32 (m, 2H), 7.66 (d, J=8.8 Hz, 1H), 8.25 (dd, J=8.8, 2.6 Hz, 1H), 8.41 (d, J=2.6 Hz, 1H).

reactant | 4-(4-bromo-2-fluorobenzyl)-3-n-butyl-1-(2-chloro-5-nitrophenyl)-1H-pyrazole-5-carbonyl chloride | BrC1=CC(=C(CC=2C(=NN(C2C(=O)Cl)C2=C(C=CC(=C2)[N+](=O)[O-])Cl)CCCC)C=C1)F | C21H17BrCl2FN3O3
reactant | ammonia | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-Bromo-2-fluorobenzyl)-3-n-butyl-1-(2-chloro-5-nitrophenyl)-1H-pyrazole-5-carboxamide | 625 mg, 93% | BrC1=CC(=C(CC=2C(=NN(C2C(=O)N)C2=C(C=CC(=C2)[N+](=O)[O-])Cl)CCCC)C=C1)F | C21H19BrClFN4O3
